US09403773B2
Meldrum's acid (5.29 g, 36.7 mmol) was added to methyl orthoformate (31 ml), and the mixture was stirred for 2 hours while heating under reflux. The resulting mixture was cooled to 50° C., and 5-fluoro-2-propoxyaniline (4.28 g, 25.3 mmol) and methyl orthoformate (3 ml) were added thereto. The resulting mixture was stirred for 6 hours while heating under reflux. The resulting reaction mixture was then cooled to room temperature, and concentrated under reduced pressure. The residue was recrystallized from methanol to thereby obtain 7.61 g of powdery pale brown 5-[(5-fluoro-2-propoxyphenylamino)methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione (yield: 93%).

reactant | Meldrum's acid | 36.7 mmol, 5.29 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | methyl orthoformate | 31 ml | C(OC)([O-])[O-]
reactant | 5-fluoro-2-propoxyaniline | 25.3 mmol, 4.28 g | FC=1C=CC(=C(N)C1)OCCC | C9H12FNO
reactant | methyl orthoformate | 3 ml | C(OC)([O-])[O-]
product | 5-[(5-fluoro-2-propoxyphenylamino)methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione | 7.61 g, yield: 93% | FC=1C=CC(=C(C1)NC=C1C(OC(OC1=O)(C)C)=O)OCCC | C16H18FNO5
